US08207174B2
methyl 4-hydroxy-2-(2-hydroxy-3-(1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-ylamino)propoxy)benzoate
Synthesis followed SP6 (3 h), using 300 μmol methyl 4-(methoxymethoxy)-2-(oxiran-2-ylmethoxy)benzoate and 1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine to give MOM intermediate upon purification by prep. TLC (1 mm silica gel, PE/CH2Cl2/MeOH 10:6:1) with 51% yield. Product was obtained by MOM-removal according to SP8 with 32% yield upon purification by prep. TLC (1 mm silica gel, PE/CH2Cl2/MeOH 6:4:1) and subsequent prep. HPLC (reversed phase).

reactant | methyl 4-(methoxymethoxy)-2-(oxiran-2-ylmethoxy)benzoate | 300 μmol | COCOC1=CC(=C(C(=O)OC)C=C1)OCC1OC1 | C13H16O6
reactant | 1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine | C1(=CC=CC=C1)C1=CSC=2N=CN=C(C21)N2CCC(CC2)N | C17H18N4S
product | methyl 4-hydroxy-2-(2-hydroxy-3-(1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-ylamino)propoxy)benzoate | 51% yield | OC1=CC(=C(C(=O)OC)C=C1)OCC(CNC1CCN(CC1)C=1C2=C(N=CN1)SC=C2C2=CC=CC=C2)O | C28H30N4O5S
